Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
"How am I supposed to sleep when a man stands over me touching 
me with his ___ in my face?" 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with history of depression, PTSD, and 
polysubstance abuse who presents with pressured speech and 
intoxication.  Pt was a poor historian at time of interview with 
pressured, tangential speech, unable to clearly indicate
chronology.  However, she gives a history of not being able to 
sleep for about 5 nights now, partly because a tenant at her 
apartment, ___, apparently walks around naked and attempts to 
touch her when she goes to sleep. Last night, she drank unknown 
quantities of alcohol, took some crack cocaine, Ambien, tylenol
___, nyquil and Seroquel in an attempt to sleep.  She is unclear 
about the quantities and timings.  She interjects some thoughts 
of not wanting to live anymore: "what's the point of living, 
I've tried to kill myself so many times but it doesn't work".  
She reports hearing voices "telling me I'm worthless, just kill 
myself and get it over with now". 

Pt says she is ambivalent about currently being alive, although 
she notes, "I wouldn't try to hurt myself again."  Pt says she 
has been drinking a lot more than usual over the past few weeks 
to try and numb her depression and drown out her AH.  She has AH 
of voices only when she is depressed.  She say if she drinks
enough she can "drowned them out."  She is unable to quantify 
how much alcohol she has been drinking.

Per patient's boss ___ (___), the patient has 
been in a relationship for ___ years with a man named ___ 
___, whom the patient calls "___".  Mr. ___, who has 
known the patient for ___ years, reports that the boyfriend "is a 
pimp" and was physically abusive in the past, but the patient 
keeps going back to him.  He also reports that a current tenant 
in the apartment, ___, has been sexually molesting her for 
some time now and he is concerned that ___ has raped her.  He 
reports that this morning around 5:30 am, he picked up the 
patient to take her to work (she works as a ___ for his 
___) and "this was the worst she has ever 
looked".  She was 'ranting and raving' about being unable to 
sleep due to ___. He also reports that the patient's mother 
died a year ago, but the patient has not been able to accept her 
death and will speak as though she is still alive.  The 
patient's mother apparently accused her of killing her sister in 
childhood
and this has been a longtime source of stress for the patient. 
He does not believe the patient would kill herself but feels she 
could "accidentally walk in front of a truck" due to poor 
judgment.
 
Past Medical History:
PSYCHIATRIC HISTORY: 
- Prior hospitalizations at ___ in ___, ___, 
___, ED visit to ___ in ___ as 
per OMR.  Hosp at ___ for depression in ___. 
- History of multiple suicide attempts via overdose, also once
jumped in front of a truck but it stopped in time
- Collateral (her boss) reports he has taken her to ___ ED 4 
times and to some other EDs.  
- Pt denies receiving ECT. No history of assaultive behavior as
per OMR. 
- med trials celexa, risperdal
- no current treaters, pt has history of not complying with 
outpt
treatment

PAST MEDICAL HISTORY:
- PCP ___ @ ___ / Healthcare Associates
___ 
- hypertension
- obesity
- hx of heart murmur
- hx of anemia and thalassemia
- 6 children, four with C sections 
- s/p tubal ligation

 
Social History:
Grew up in ___, did not complete high school. Lives with 
boyfriend and his various tenants.  Has been with boyfriend for 
___ years (see collateral info above) who is abusive and has been 
physically abusive in past.  Pt denies current physical abuse.  
Works in a ___ capacity for an ___ and 
reports close relationship with ___, her boss. Denies
any legal issues. Reports that she grew up in a household with 
many siblings (one of ___) and had to spend a lot of time 
taking care of them while growing up. She took care of a sick 
sister who died of meningitis.  Mother  accused pt of "killing 
my sister".  Mother apparently died a year ago but pt does not 
accept her death. Has a brother, ___ in ___, who is 
supportive and whom she has lived with in the past. Per OMR has 
6 children ranging in age from ___ with different men. 

SUBSTANCE ABUSE HISTORY:
Reports that she recently took vodka, gin, nyquil, tylenol ___, 
crack cocaine,
ambien, and seroquel in order "to sleep" but is unclear about 
the quantities. Reports multiple suicide attempts with various 
combinations of medications "seroquel alcohol ambien crack but 
it never works". Denies any IV drug use.  

 
Family History:
mother and sisters with history of EtOH abuse/dependence
sister with depression and history of suicide attempt
sister with mental retardation

 
Physical Exam:
*VS:  BP: 145/88   HR: 83  temp: 98.2   resp: 18 O2 sat: 99%  
Neurological:
*station and gait:gait intact, no ataxia abnormal movements:no 
abnormal movements noted
*Appearance: Pt appears stated age, sitting up in chair wearing 
a hospital gown, makes good eye contact and smiles appropriately
*Behavior: cooperative, good eye contact, pleasant
*Mood and Affect: Mood is "overwhelmed, I need rest" and affect 
is dysthymic with full range
*Thought process: linear
*Thought Content: denies HI/SI, admits to recent AH, but none 
currently
*Judgment and Insight:poor/fair
Cognition:
*Attention, orientation, and executive function:oriented to 
person, place, event, year, month, Christmas coming up, not 
oriented to date
*Speech: normal rate and volume, no dysarthria

HEENT: EOMI, no sustained nystagmus
CV: soft holosystolic murmur, split S2, normal rate and rhythm
Resp: CTAB, no c/w/r
Abd: soft, NT, ND, +BS
Ext: no c/c/e, no tremor, right shoulder is tender to palpation,
limited range of motion ___ pain, no erythema or obvious 
swelling

 
Pertinent Results:
___ 06:30PM   cTropnT-<0.01
___ 09:25AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 09:25AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:25AM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-5.0 
LEUK-NEG
___ 09:25AM URINE  ___ BACTERIA-NONE YEAST-NONE 
___ 08:25AM   GLUCOSE-93 UREA N-17 CREAT-1.0 SODIUM-137 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-23 ANION GAP-16
___ 08:25AM   ALT(SGPT)-16 AST(SGOT)-22 LD(LDH)-189 ALK 
PHOS-47 TOT BILI-0.2
___ 08:25AM   cTropnT-<0.01
___ 08:25AM   ALBUMIN-4.4 IRON-21*
___ 08:25AM   calTIBC-514* FERRITIN-48 TRF-395*
___ 08:25AM   TSH-1.7
___ 08:25AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:25AM   WBC-5.1 RBC-5.06 HGB-11.8* HCT-36.4 MCV-72* 
MCH-23.4* MCHC-32.4 RDW-15.3
___ 08:25AM   NEUTS-44.3* LYMPHS-48.0* MONOS-4.0 EOS-2.7 
BASOS-1.0
___ 08:25AM   PLT COUNT-263
 
Brief Hospital Course:
PSYCHIATRIC:
Patient was admitted on ___. Upon initial meeting with the 
team she reported that she has been increasingly stressed over 
the last month because her boyfriend of ___ years, “___”, with 
whom she lives, has been having his friend, ___, stay with 
them. This has been extremely stressful because, ___ spends 
most of his time walking around the apartment naked and asking 
her for sex. Importantly, despite always feeling uncomfortable 
in her home, she denied ever feeling unsafe. As a result of this 
difficult social situation patient turned to alcohol as means to 
cope and had been drinking heavily everyday for the last 1 to 2 
months, and also smoked crack for the first time in several 
years the night that she was admitted to the hospital. Patient 
denies that she was ever suicidal, but reports that she “needed 
a rest” and knew that she had to come in to the hospital for 
that reason. It appears that her recent relapse into substances 
and her chaotic living environment were the main causes of her 
mood symptoms of increased irritability and prominent insomnia. 
Given that her irritability, impulsivity, and difficulties with 
sleep were currently her most concerning symptoms she was 
started on quetiapine qhs. Which she had tolerated well in the 
past. The patient tolerated the quetiapine well, and found it to 
be efficacious for improving her sleep, decreasing her lability, 
and improving her mood overall. Throughout her time on the unit 
the patient was future oriented and denied having any thoughts 
of suicide. She also denied having any homicidal thoughts 
towards ___ or others. Towards the end of her admission the 
patient was denying any significant feelings of depression, 
denied any feelings of hopelessness, and was expressing her plan 
to go stay with her brother in ___ as a means to avoid the 
stress of her chaotic living situation with her boyfriend. She 
was also looking forward to getting things in order for her 
section 8 housing and to return to work. 

MEDICAL:
Patient was unable to quantify how much she was actually 
drinking, as she was simply drinking whatever she could get her 
hands on. She was on a ___ protocol throughout the first few 
days of her admission, however, she consistently scored zero on 
this measure and it was eventually discontinued once she was no 
longer at risk for complications from alcohol withdrawal. She 
declined outpatient treatment for her substance abuse and at 
time of discharge appeared competent to make this decision. She 
was willing to continue to follow up with an outpaitent 
therapist to continue to develop additional coping skills so she 
would not relapse into drinkin 

BEHAVIORAL (including group and milieu):
Patient was in good behavioral control and appropriate in the 
milieu throughout this admission. Patient was maintained on 15 
minute checks throughout as there were no acute safety concerns 
for the patient while on the locked unit. The patient also 
attended groups regularly, and was typically an active 
participant.

PSYCHOSOCIAL:
The patient has a long history of past sexual and physical 
abuse, and prior to her admission here she was once again living 
in a chaotic situation with her previously abusive boyfriend and 
his house guest who often walks around the apartment naked and 
asks her for sex. Despite noting that she often finds it 
extremely stressful to have to endure in this environment she 
denied any fear for her physical safety at this time and denied 
any recent physical or sexual abuse. Given her long history of 
past abuse, a consultation was requested with the ___ 
Violence Prevention and Recovery, who met with the patient and 
in addition to providing her with a least of resources for DV 
services in the community and their own contact information. 
As discharge was approaching the patient worked with social work 
in order to make arrangements so that she could temporarily go 
live with her brother in ___ while working to get things in 
order for her to apply for section 8 housing. The patient has a 
long history of returning to her abusive living situation and 
this concern was discussed with the patient and her social 
supports (brother and boss). She had the capacity to make 
decisions about her living situation at time of discharge. When 
overwhelemed she remains helpseeking and is knowledgeable about 
her resources.  

LEGAL:
___
Medications on Admission:
per ___ in ___: 
- Seroquel 50 mg at night
- Paxil 20 mg daily in the AM
- zolpidem 10 mg qhs, amlodipine 5 mg daily
- lisinopril with hydrochlorothiazide ___ mg daily
- omeprazole 20 mg 
- amlodipine 5 mg daily

****Pt says she has not taken any medications for the last month
because she ran out of her prescriptions and had not gone back 
to
see her doctor yet***
 
Discharge Medications:
1. quetiapine 50 mg Tablet Sig: ___ Tablets PO HS (at bedtime).
Disp:*45 Tablet(s)* Refills:*0*
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I. Polysubstance Abuse, PTSD, Mood disorder NOS - r/o MDD, 
r/o
substance induced mood disorder
AXIS II. R/o cluster B
AXIS III. Anemia/thalassemia, hx of heart murmur, gallstones, 
GERD,
HTN
AXIS IV. unstable living situation, ongoing domestic violence, 
?recent
sexual assault, hx of treatment non-compliance, financial stress
AXIS V. 40

 
Discharge Condition:
Patient is able to ambulate fully without assistance.

Appearance: obese black woman with short hair, appropriately 
dressed and groomed
Behavior: no PMR/PMA
Speech: normal rate and volume, good inflection
Mood: 'better'
Affect: bright, reactive
Thought Process: linear and goal directed
Thought Content: denies any SI/HI, 
Insight: limited
Judgment: poor

 
Discharge Instructions:
1. Please take medications as prescribed and keep all follow-up 
appointments as scheduled.
2. Please call your providers, dial 911, or go to your nearest 
emergency room if you feel unsafe in any way, if suicidal or 
homicidal thoughts emerge, or if you have any immediate 
concerns.
3. Please avoid all drugs and alcohol. 
*It was a pleasure to work with you!*

 
Followup Instructions:
___